### PR TITLE
[Merged by Bors] - feat(Mathlib/Algebra/QuadraticAlgebra): norm, star structure on quadratic alg.

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Define the norm and the star structure on a quadratic algebra.

Application to the units, the zero divisors and the field structure (when there is one).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,352 @@
...
+
+section
+
+variable [Zero R] [One R]
+
+/-- The representative of the root in the quadratic algebra -/
+def omega : QuadraticAlgebra R a b :=
+  ⟨0, 1⟩
+
+notation:25 "ω" => omega
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: This should be scoped I think; or used directly as the name

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,352 @@
...
+
+theorem omega_prop : (ω) * (ω) =
+    (b : QuadraticAlgebra R a b) * (ω : QuadraticAlgebra R a b) + (a : QuadraticAlgebra R a b) := by
+  ext <;> simp
+
+theorem omega_prop' : (ω : QuadraticAlgebra R a b) * (ω) =
+    b • (ω) + a • 1 := by
+  simp [omega_prop, ← QuadraticAlgebra.coe_mul_eq_smul]
+
+theorem decompose {x y : R} :
```
Comment (eric-wieser) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Perhaps
```suggestion
theorem mk_eq_add_smul_omega {x y : R} :
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: I used it as the name.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,389 @@
...
+variable {R : Type*} {a b : R}
+
+section omega
+
+section
+
+variable [Zero R] [One R]
+
+/-- The representative of the root in the quadratic algebra -/
+def ω : QuadraticAlgebra R a b :=
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: I think the declaration *name* should be `ω`, and you should introduced scoped notation `ω` for the definition.
```suggestion
def omega : QuadraticAlgebra R a b :=
```
This aligns with your naming below (e.g., `re_omega`)

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,389 @@
...
+@[simp]
+theorem im_omega : (ω : QuadraticAlgebra R a b).im = 1 :=
+  rfl
+
+end
+
+variable [CommSemiring R]
+
+theorem omega_mul_omega :
+    (ω : QuadraticAlgebra R a b) * (ω) = ⟨a, b⟩ := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: The main thing is remove the parens, but it also fits on a single line easily, so that seemed more natural.
```suggestion
theorem omega_mul_omega_eq_mk : (ω : QuadraticAlgebra R a b) * ω = ⟨a, b⟩ := by
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,389 @@
...
+  ext <;> simp
+
+theorem omega_mul_omega_eq :
+    (ω : QuadraticAlgebra R a b) * (ω) = a • 1 + b • (ω) := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem omega_mul_omega_eq_add : (ω : QuadraticAlgebra R a b) * ω = a • 1 + b • ω := by
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,389 @@
...
+  ext <;> simp
+
+@[simp]
+theorem omega_mul (x y : R) :
+    (ω : QuadraticAlgebra R a b) * ⟨x, y⟩ = ⟨a * y, x + b * y⟩ := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem omega_mul_mk (x y : R) : (ω : QuadraticAlgebra R a b) * ⟨x, y⟩ = ⟨a * y, x + b * y⟩ := by
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,389 @@
...
+  ext <;> simp
+
+@[simp]
+theorem omega_mul_coe_mul (n x y : R) :
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem omega_mul_coe_mul_mk (n x y : R) :
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,389 @@
...
+    (ω : QuadraticAlgebra R a b) * (↑n) * ⟨x, y⟩ = ⟨a * n * y, n * x + n * b * y⟩ := by
+  ext <;> simp; ring
+
+theorem omega_prop : (ω) * (ω) =
+    (b : QuadraticAlgebra R a b) * (ω : QuadraticAlgebra R a b) + (a : QuadraticAlgebra R a b) := by
+  ext <;> simp
+
+theorem omega_prop' : (ω : QuadraticAlgebra R a b) * (ω) =
+    b • (ω) + a • 1 := by
+  simp [omega_prop, ← QuadraticAlgebra.coe_mul_eq_smul]
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Why are there so many variations on `ω * ω`, with very different names?

I think for `QuadraticAlgebra` you (i.e., Mathlib) should standardize on either `↑r * x` or `r • x` for `r : R` and `x : QuadraticAlgebra R a b`. Possibly there may be a special case for `r := a` or `r := b`, but in that case there should be additional `simp` lemmas for those.

Then there would only be 2 lemmas for `ω * ω`, the `mk` version and the `add` version (the latter using whichever standard we decide upon).

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,389 @@
...
+  simp only [AlgHom.commutes]
+
+/-- The unique `AlgHom` from `QuadraticAlgebra R a b` to an `R`-algebra `A`,
+constructed by replacing `ω` with the provided root.
+Conversely, this associates to every algebra morphism `QuadraticAlgebra R a b →ₐ[R] A`
+a value of `ω` in `A`. -/
+@[simps]
+def lift : { u : A // u * u = b • u + a • 1 } ≃ (QuadraticAlgebra R a b →ₐ[R] A) where
+  toFun u :=
+    { toFun z := z.re • 1 + z.im • u
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean:97]: I realize this is more verbose, but I suspect it can simplify some aspects of this PR if you use it in place of `_ • 1` everywhere in the PR.
```suggestion
    { toFun z := algebraMap R (QuadraticAlgebra R a b) z.re + z.im • u
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,389 @@
...
+
+section omega'
+
+variable [Ring R]
+
+/-- The representative of the “other” root in the quadratic algebra.
+
+One has omega R a b + omega' R a b = b -/
+def ω' : QuadraticAlgebra R a b :=
+  ⟨b, -1⟩
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: I think I would advocate for dropping this definition entirely, and instead standardize expressions with `star ω` instead.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,389 @@
...
+  star_involutive _ := by
+    refine QuadraticAlgebra.ext (by simp) (neg_neg _)
+  star_mul a b := by ext <;> simp <;> ring
+  star_add _ _ := QuadraticAlgebra.ext (by simp [star_re]; ring) (neg_add _ _)
+
+/-
+@[simp]
+theorem nsmul_val (n : ℕ) (x y : ℤ) :
+    (n : QuadraticAlgebra R a b) * ⟨x, y⟩ = ⟨n * x, n * y⟩ := by
+  ext <;> simp
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Why are these commented?

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,389 @@
...
+/-- `norm` as a `MonoidHom`. -/
+def normMonoidHom : QuadraticAlgebra R a b →* R where
+  toFun := norm
+  map_mul' := norm_mul
+  map_one' := norm_one
+
+theorem normMonoidHom_apply (r : QuadraticAlgebra R a b) :
+    normMonoidHom r = norm r := rfl
+
+theorem coe_norm_eq_mul_conj (z : QuadraticAlgebra R a b) :
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: I would suggest sticking to the `star` naming instead of `conj`, unless there is a plan to introduce `conj` in some scope as we do for `Complex`. But I wouldn't recommend that.
```suggestion
theorem coe_norm_eq_mul_star (z : QuadraticAlgebra R a b) :
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,389 @@
...
+    ((norm z : R) : QuadraticAlgebra R a b) = z * star z := by
+  ext <;> simp [norm, star, mul_comm] <;> ring
+
+@[simp]
+theorem norm_neg (x : QuadraticAlgebra R a b) : (-x).norm = x.norm := by
+  simp [norm]
+
+@[simp]
+theorem norm_conj (x : QuadraticAlgebra R a b) : (star x).norm = x.norm := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem norm_star (x : QuadraticAlgebra R a b) : (star x).norm = x.norm := by
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,389 @@
...
+    exact Submonoid.mul_mem _ hz (conj_mem_nonZeroDivisors hz)
+
+end norm
+
+section field
+
+variable [Field R]
+
+-- TODO : make computable by giving the explicit formula for the inverse
+noncomputable instance [Hab : Fact (∀ r, r ^ 2 ≠ a + b * r)] :
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Why not just do this now?

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,389 @@
...
+  · simp only [isUnit_iff_exists]
+    rintro ⟨r, hr, hr'⟩
+    rw [← coe_inj (R := R) (a := a) (b := b), coe_mul,
+      coe_norm_eq_mul_conj , mul_assoc, coe_one] at hr
+    refine ⟨_, hr, ?_⟩
+    rw [mul_comm, hr]
+
+/-- An element of `QuadraticAlgebra R a b` has norm equal to `1`
+if and only if it is contained in the submonoid of unitary elements. -/
+theorem norm_eq_one_iff_mem_unitary {z : QuadraticAlgebra R a b} :
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean:239]: Perhaps add an `alias` for both directions of this `↔`.

File: Mathlib/Algebra/QuadraticAlgebra/Defs.lean [hunk 16]
```diff
@@ -418,12 +424,34 @@ theorem coe_algebraMap : ⇑(algebraMap R (QuadraticAlgebra R a b)) = coe := rfl
 theorem smul_coe (r1 r2 : R) :
     r1 • (r2 : QuadraticAlgebra R a b) = ↑(r1 * r2) := by rw [coe_mul, coe_mul_eq_smul]
 
+theorem coe_dvd_iff {r : R} {z : QuadraticAlgebra R a b} :
+    ↑r ∣ z ↔ r ∣ z.re ∧ r ∣ z.im := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/QuadraticAlgebra/Defs.lean]: you use type ascriptions almost everywhere else, including in the lemma below.
```suggestion
    (r : QuadraticAlgebra R a b) ∣ z ↔ r ∣ z.re ∧ r ∣ z.im := by
```

File: Mathlib.lean [hunk 17]
```diff
@@ -1061,7 +1061,8 @@ import Mathlib.Algebra.Polynomial.UnitTrinomial
 import Mathlib.Algebra.PresentedMonoid.Basic
 import Mathlib.Algebra.Prime.Defs
 import Mathlib.Algebra.Prime.Lemmas
-import Mathlib.Algebra.QuadraticAlgebra
+import Mathlib.Algebra.QuadraticAlgebra.Basic
+import Mathlib.Algebra.QuadraticAlgebra.Defs
```
Comment (j-loreaux) [inline Mathlib.lean]: probably the file rename should occur in a separate PR.

Comment (AntoineChambert-Loir) [reply Mathlib.lean]: OK.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: OK

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: I deleted some of those versions.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean:97]: I will leave this unmodified for the moment: to me, this looks as it is a third way of writing this map (the other one being `coe`). Thinking about what is done for polynomials (where there is `Polynomial.C`), I have no feeling about which is the idiomatic way.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: OK.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Because they were there in the file I had initially written (before `QuadraticAlgebra.lean` existed) and I felt they were not so useful. I moved them to the other file.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: OK.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean:239]: I don't understand what this means! Do you suggest giving names for the .mp and .mpr versions?

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 14 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Because I hadn't time to do it then!

File: Mathlib/Algebra/QuadraticAlgebra/Defs.lean (hunk 16 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Defs.lean]: OK

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 15 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean:239]: Yes, just look for `alias` in mathlib, it's used several times.

File: Mathlib/Algebra/Group/Basic.lean [hunk 18]
```diff
@@ -121,6 +121,10 @@ theorem mul_right_comm (a b c : G) : a * b * c = a * c * b := by
 theorem mul_mul_mul_comm (a b c d : G) : a * b * (c * d) = a * c * (b * d) := by
   simp only [mul_left_comm, mul_assoc]
 
+@[to_additive]
+theorem mul_mul_mul_comm' (a b c d : G) : a * b * c * d = a * c * b * d := by
+  simp only [mul_left_comm, mul_assoc]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Group/Basic.lean]:
```suggestion
  grind
```
I guess that `grind` can prove a lot of other results in this file, but let's try to use it at leas in new declarations.

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 19]
```diff
@@ -89,6 +89,9 @@ instance : Zero (QuadraticAlgebra R a b) := ⟨⟨0, 0⟩⟩
 @[simp, norm_cast]
 theorem coe_zero : ((0 : R) : QuadraticAlgebra R a b) = 0 := rfl
 
+theorem coe_eq_zero_iff {r : R} : (r : QuadraticAlgebra R a b) = 0 ↔ r = 0 := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra.lean:93]: `simp`?

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 20]
```diff
@@ -103,6 +106,9 @@ instance : One (QuadraticAlgebra R a b) := ⟨⟨1, 0⟩⟩
 @[simp, norm_cast]
 theorem coe_one : ((1 : R) : QuadraticAlgebra R a b) = 1 := rfl
 
+theorem coe_eq_one_iff {r : R} : (r : QuadraticAlgebra R a b) = 1 ↔ r = 1 := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra.lean:111]: `simp`?

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 21]
```diff
@@ -418,11 +429,40 @@ theorem coe_algebraMap : ⇑(algebraMap R (QuadraticAlgebra R a b)) = coe := rfl
...
+    (r : QuadraticAlgebra R a b) ∣ z ↔ r ∣ z.re ∧ r ∣ z.im := by
+  constructor
+  · rintro ⟨x, rfl⟩
+    simp [dvd_mul_right]
+  · rintro ⟨⟨r, hr⟩, ⟨i, hi⟩⟩
+    use ⟨r, i⟩
+    simp [QuadraticAlgebra.ext_iff, hr, hi]
+
+@[simp, norm_cast]
+theorem coe_dvd_ofSelf (z w : R) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
theorem coe_dvd_ofSelf {z w : R} :
```
I would call it `coe_dvd_iff_dvd` or something similar (I don't see what `ofSelf` refers to).

File: Mathlib/Algebra/QuadraticAlgebra.lean [hunk 22]
```diff
@@ -418,11 +429,40 @@ theorem coe_algebraMap : ⇑(algebraMap R (QuadraticAlgebra R a b)) = coe := rfl
...
+variable [CommRing R]
+
+instance instCommRing : CommRing (QuadraticAlgebra R a b) where
+
+instance [CharZero R] : CharZero (QuadraticAlgebra R a b) where
+  cast_injective m n := by
+    simp [QuadraticAlgebra.ext_iff]
+
+@[simp]
+theorem smul_val (n : ℤ) (x y : R) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra.lean]:
```suggestion
theorem zsmul_val (n : ℤ) (x y : R) :
```
Also, can you move it just below the `nsmul` version?

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,372 @@
...
+variable {R : Type*} {a b : R}
+
+section omega
+
+section
+
+variable [Zero R] [One R]
+
+/-- The representative of the root in the quadratic algebra -/
+def omega : QuadraticAlgebra R a b :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean:43]:
```suggestion
def omega (a b : R) : QuadraticAlgebra R a b :=
```
I am not sure this is a better design, but you often write `ω : QuadraticAlgebra R a b`  where one could write `ω a b`. On the other hand now one cannot write `ω`, but has to write `ω _ _`.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,372 @@
...
+  ⟨0, 1⟩
+
+/-- the canonical element `⟨0, 1⟩` in a quadratic algebra `QuadraticAlgebra R a b`. -/
+scoped notation "ω" => omega
+
+@[simp]
+theorem re_omega : (ω : QuadraticAlgebra R a b).re = 0 :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem omega_re : (ω : QuadraticAlgebra R a b).re = 0 :=
```
See [Complex.I_re](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Complex/Basic.html#Complex.I_re)

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,372 @@
...
+  rfl
+
+@[simp]
+theorem im_omega : (ω : QuadraticAlgebra R a b).im = 1 :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem omega_im : (ω : QuadraticAlgebra R a b).im = 1 :=
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,372 @@
...
+    (ω : QuadraticAlgebra R a b) * ω = a • 1 + b • ω := by
+  ext <;> simp
+
+@[simp]
+theorem omega_mul_mk (x y : R) : (ω : QuadraticAlgebra R a b) * ⟨x, y⟩ = ⟨a * y, x + b * y⟩ := by
+  ext <;> simp
+
+@[simp]
+theorem omega_mul_coe_mul_mk (n x y : R) :
+    (ω : QuadraticAlgebra R a b) * (↑n) * ⟨x, y⟩ = ⟨a * n * y, n * x + n * b * y⟩ := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
    (ω : QuadraticAlgebra R a b) * n * ⟨x, y⟩ = ⟨a * n * y, n * x + n * b * y⟩ := by
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,372 @@
...
+  ext <;> simp; ring
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Nonterminal `simp`.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,372 @@
...
+
+theorem mk_eq_add_smul_omega {x y : R} :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem mk_eq_add_smul_omega (x y : R) :
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 29]
```diff
@@ -0,0 +1,372 @@
...
+    (⟨x, y⟩ : QuadraticAlgebra R a b) = x + y • (ω : QuadraticAlgebra R a b) := by
+  ext <;> simp
+
+variable {A : Type*} [Ring A] [Algebra R A]
+
+@[ext]
+theorem hom_ext {f g : QuadraticAlgebra R a b →ₐ[R] A}
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem algHom_ext {f g : QuadraticAlgebra R a b →ₐ[R] A}
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 30]
```diff
@@ -0,0 +1,372 @@
...
+    (h : f ω = g ω) : f = g := by
+  ext ⟨x, y⟩
+  simp only [mk_eq_add_smul_omega, map_add, map_smul, h, add_left_inj]
+  change f (algebraMap R _ x) = g (algebraMap R _ x)
+  simp only [AlgHom.commutes]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
  ext ⟨x, y⟩
  simp [mk_eq_add_smul_omega, h, ← coe_algebraMap]
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 31]
```diff
@@ -0,0 +1,372 @@
...
+    ⟩
+  left_inv r := by
+    simp
+  right_inv f := by
+    ext
+    simp
+
+end omega
+
+/- section omega'
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Why is everything commented here?

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 32]
```diff
@@ -0,0 +1,372 @@
...
+instance : Star (QuadraticAlgebra R a b) where
+  star z := ⟨z.re + b * z.im, -z.im⟩
+
+@[simp]
+theorem star_mk (x y : R) :
+    star (⟨x, y⟩ : QuadraticAlgebra R a b) = ⟨x + b * y, -y⟩ :=
+  rfl
+
+@[simp]
+theorem star_re (z : QuadraticAlgebra R a b) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem re_star (z : QuadraticAlgebra R a b) :
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 33]
```diff
@@ -0,0 +1,372 @@
...
+    (star z).re = z.re + b * z.im :=
+  rfl
+
+@[simp]
+theorem star_im (z : QuadraticAlgebra R a b) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem im_star (z : QuadraticAlgebra R a b) :
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 34]
```diff
@@ -0,0 +1,372 @@
...
+    (star z).im = -z.im :=
+  rfl
+
+theorem mul_star {x y : R} :
+    (⟨x, y⟩ * star ⟨x, y⟩ : QuadraticAlgebra R a b) =
+      x * x + b * x * y - a * y * y := by
+  ext <;> simp <;> ring
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Nonterminal `simp`.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 35]
```diff
@@ -0,0 +1,372 @@
...
+  rfl
+
+@[simp]
+theorem norm_zero : norm (0 : QuadraticAlgebra R a b) = 0 := by simp [norm]
+
+@[simp]
+theorem norm_one : norm (1 : QuadraticAlgebra R a b) = 1 := by simp [norm]
+
+@[simp]
+theorem norm_coe (r : R) : norm (r : QuadraticAlgebra R a b) = r * r := by simp [norm_def]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem norm_coe (r : R) : norm (r : QuadraticAlgebra R a b) = r ^ 2 := by simp [norm_def]
```
This is what I would write on paper.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 36]
```diff
@@ -0,0 +1,372 @@
...
+
+@[simp]
+theorem norm_natCast (n : ℕ) : norm (n : QuadraticAlgebra R a b) = n * n :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Same.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 37]
```diff
@@ -0,0 +1,372 @@
...
+  by simp [norm_def]
+
+@[simp]
+theorem norm_intCast (n : ℤ) : norm (n : QuadraticAlgebra R a b) = n * n :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Same.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 38]
```diff
@@ -0,0 +1,372 @@
...
+  by simp [norm_def]
+
+@[simp]
+theorem norm_mul (z w : QuadraticAlgebra R a b) :
+    norm (z * w) = norm z * norm w := by
+  simp [norm_def]; ring
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Nonterminal `simp`.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 39]
```diff
@@ -0,0 +1,372 @@
...
+
+/-- `norm` as a `MonoidHom`. -/
+def normMonoidHom : QuadraticAlgebra R a b →* R where
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: What about calling this `norm`? I don't see any reason to have other version.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 40]
```diff
@@ -0,0 +1,372 @@
...
+  toFun := norm
+  map_mul' := norm_mul
+  map_one' := norm_one
+
+theorem normMonoidHom_apply (r : QuadraticAlgebra R a b) :
+    normMonoidHom r = norm r := rfl
+
+theorem coe_norm_eq_mul_star (z : QuadraticAlgebra R a b) :
+    ((norm z : R) : QuadraticAlgebra R a b) = z * star z := by
+  ext <;> simp [norm, star, mul_comm] <;> ring
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean:214]: Nonterminal `simp`.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 41]
```diff
@@ -0,0 +1,372 @@
...
+
+@[simp]
+theorem norm_neg (x : QuadraticAlgebra R a b) : (-x).norm = x.norm := by
+  simp [norm]
+
+@[simp]
+theorem norm_star (x : QuadraticAlgebra R a b) : (star x).norm = x.norm := by
+  simp [norm]; ring
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Nonterminal `simp`.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 42]
```diff
@@ -0,0 +1,372 @@
...
+
+alias ⟨mem_unitary, norm_eq_one⟩ := norm_eq_one_iff_mem_unitary
+
+/-- The kernel of the norm map on `QuadraticAlgebra R a b` equals
+the submonoid of unitary elements. -/
+theorem mker_norm_eq_unitary :
+    MonoidHom.mker (@normMonoidHom R a b _) = unitary (QuadraticAlgebra R a b) :=
+  Submonoid.ext fun _ => norm_eq_one_iff_mem_unitary
+
+theorem coe_mem_nonZeroDivisors_iff {r : R} :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean:253]: Can you use the notation for nonzero divisors?

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 43]
```diff
@@ -0,0 +1,372 @@
...
+      rw [hz]
+      field_simp
+      ring
+  · intro hz
+    simp [hz]
+
+/-- If `R` is a field and there is no `r : R` such that `r ^ 2 = a + b * r`,
+then `QuadraticAlgebra R a b` is a field. -/
+instance : Field (QuadraticAlgebra R a b) where
+  toCommRing := inferInstance
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 44]
```diff
@@ -0,0 +1,372 @@
...
+    by_cases h : z.im = 0
+    · simp [h] at hz
+      aesop
+    · exfalso
+      rw [← pow_two, sub_eq_zero, ← eq_sub_iff_add_eq] at hz
+      apply Hab.out (- z.re / z.im)
+      field_simp
+      rw [hz]
+      field_simp
+      ring
```
Comment (riccardobrasca) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
      grind
```
Probably something similar works in other places.

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra.lean:93]: OK. But do you understand why re_zero is [scoped simp] and re_one is [simp] ?

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 22 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: It would require adding a lot of stuff to `R`, which now has to be a ring.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 27 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: I know, and I changed it but I believe it should be allowed.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 31 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Because I was asked to remove it.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 34 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: OK, but compare with current version.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 42 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean:253]: Yes.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 44 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Maybe, but a first look didn't give any other obvious place.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 39 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: `norm` exists above.

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 19 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticAlgebra.lean:93]: Hmm, not really. Maybe some linter complains, but you can just try. On the other hand the name should be `zero_re`.

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 22 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticAlgebra.lean]: Ah OK, no problem then.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 39 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Yes, I mean calling the other version something else, so people will only use the bundled version.

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra.lean:93]: Do you want that I fix this in this PR?

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 39 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: OK, I see what you mean. But then, the norm_zero, etc. are not really useful. What would you think if I  just defined norm and prove the required results in the definition.

Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Since the proofs are very short I agree they can be inlined and people can use the generic `map_mul` result.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 23 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean:43]: I left this unchanged for the moment. If you insist, I'll make the effort.

File: Mathlib/Algebra/QuadraticAlgebra.lean (hunk 19 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticAlgebra.lean:93]: Let's do in another PR.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 23 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean:43]: OK, it was just a suggestion, I am not sure it's better or not.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 34 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: I don't see any new version, did you forget to push or something?

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: git believes it is up to date, and github marks the file as outdated.
The correction was in commit fc673935ce7ee202a50d17affb303f07c7f20ceb (below, with message `adjust`).

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: The new proof is 
```
theorem mul_star {x y : R} :
    (⟨x, y⟩ * star ⟨x, y⟩ : QuadraticAlgebra R a b) =
      x * x + b * x * y - a * y * y := by
  ext <;>
  simp only [star_mk, mk_mul_mk, mul_neg, im_sub, im_add, im_mul, re_coe, im_coe, mul_zero,
    zero_mul, add_zero, re_mul, sub_self, re_sub, re_add] <;> ring
```

Comment (riccardobrasca) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: Yeah, it's indeed quite ugly. If you prefer let's keep `simp; ring`, it seems very unlikely to break in the future.

**Comment by riccardobrasca** [comment]
@j-loreaux can you have another look? This LGTM.

**Comment by riccardobrasca** [comment]
LGTM, and we can always improve it later if we need it. Thanks!

bors merge

**Comment by riccardobrasca** [comment]
bors merge

**Comment by riccardobrasca** [comment]
Can you please merge master and fix the error? Thanks!

bors d+

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 45]
```diff
@@ -0,0 +1,334 @@
...
+  mul_inv_cancel z hz := by
+    rw [ne_eq, ← norm_eq_zero_iff_eq_zero] at hz
+    simp only [Algebra.mul_smul_comm]
+    rw [← coe_mul_eq_smul, ← coe_norm_eq_mul_star, ← coe_mul, coe_eq_one_iff]
+    exact inv_mul_cancel₀ hz
+  inv_zero := by simp
+  nnqsmul := _
+  nnqsmul_def := fun _ _ => rfl
+  qsmul := _
+  qsmul_def := fun _ _ => rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean:330]: This causes a diamond, see #38818
